US05234928
Ethyl 1-(2,4-dichlorophenyl)methyl-1,4-dihydro-2-oxo-4-thioxo-3(2H)-quinazolineacetate
Into 100 ml of toluene was dissolved 3.80 g of ethyl 1-(2,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate, and 5.70 g of Lawesson's reagent were added. After refluxed for 7 hours and 30 minutes, 1.90 g of Lawesson's reagent were further added and, after refluxed for 5 hours, solvent was distilled off. To the residue were added 10 ml of ethanol for washing, then it was further recrystallized from ethanol to obtain 2.80 g of title compound. m.p. 138°-139° C.

reactant | ethyl 1-(2,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate | 3.80 g | ClC1=C(C=CC(=C1)Cl)CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)OCC)=O | C19H16Cl2N2O4
reactant | Lawesson's reagent | 5.70 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | Lawesson's reagent | 1.90 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1-(2,4-dichlorophenyl)methyl-1,4-dihydro-2-oxo-4-thioxo-3(2H)-quinazolineacetate | 2.80 g | ClC1=C(C=CC(=C1)Cl)CN1C(N(C(C2=CC=CC=C12)=S)CC(=O)OCC)=O | C19H16Cl2N2O3S
